US05045552
2.0 g (22 mmol) of 3-methoxypropanol was dissolved in 50 ml of dimethyl sulfoxide to obtain a solution. 2.7 g (66 mmol) of sodium hydride was added to this solution at a room temperature. The obtained mixture was stirred at 60° C. for one hour and cooled to a room temperature by allowing to stand, followed by the addition of 3.0 g (19 mmol) of 4-chloro-2,3-dimethylpyridine N-oxide. The obtained mixture was stirred at 40° C. for one hour. After the completion of the reaction, the reaction mixture was distilled to remove the dimethyl sulfoxide. The obtained residue was purified by silica gel column chromatography to obtain 760 mg of 4-(3-methoxypropoxy)-2,3-dimethylpyridine N-oxide.

reactant | 3-methoxypropanol | 22 mmol, 2.0 g | COCCCO | C4H10O2
reactant | sodium hydride | 66 mmol, 2.7 g | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine N-oxide | 19 mmol, 3.0 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(3-methoxypropoxy)-2,3-dimethylpyridine N-oxide | 760 mg | COCCCOC1=C(C(=[N+](C=C1)[O-])C)C | C11H17NO3
